US07812028B2
b) 5-Bromo-6-cyclopropylmethoxy-N-((trans)-2-hydroxy-cyclohexyl)-nicotinamide
5-Bromo-6-cyclopropylmethoxy-nicotinic acid (2.3 g, 8.5 mmol) was dissolved in DMF (75 mL). To the solution was added TBTU (2.99 g, 9.3 mmol), N,N-diisopropylethyl amine (7.2 mL, 42 mmol) and (trans)-2-amino-cyclohexanol (1.4 g, 9.3 mmol). The reaction mixture was stirred for 16 h at room temperature. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (n-heptane/ethyl acetate gradient) to yield 2.5 g of the title compound as a white solid, MS (ISP) 368.9, 371.0 (M+H)+.

reactant | 5-Bromo-6-cyclopropylmethoxy-nicotinic acid | 8.5 mmol, 2.3 g | BrC=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C10H10BrNO3
reactant | TBTU | 9.3 mmol, 2.99 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 42 mmol, 7.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (trans)-2-amino-cyclohexanol | 9.3 mmol, 1.4 g | N[C@H]1[C@@H](CCCC1)O | C6H13NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-6-cyclopropylmethoxy-N-((trans)-2-hydroxy-cyclohexyl)-nicotinamide | 2.5 g | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C16H21BrN2O3
